US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone were reacted with 2.6 g of 1-cyclopentylmethyl-3-methylthiourea according to the prescription given in Example 23 and the colorless crystalline final product was filtered off. Melting point: 189° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-cyclopentylmethyl-3-methylthiourea | 2.6 g | C1(CCCC1)CNC(=S)NC | C8H16N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1CCCC1)C)O)S(N)(=O)=O | InChI=1S/C16H22ClN3O3S2.BrH/c1-20-15(19-9-11-4-2-3-5-11)24-10-16(20,21)12-6-7-13(17)14(8-12)25(18,22)23;/h6-8,11,21H,2-5,9-10H2,1H3,(H2,18,22,23);1H
